US06242600B1
4-Oxo-4-(4-pyrimidin-2-ylpiperazin-1-yl)butanoic Acid
A solution of 1-(2-pyrimidinyl)piperazine (3.28 g) and succinic anhydride (2.2 g) in dimethylformamide (15 ml) was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure and the concentrate was recrystallized from ethanol/ethyl ether to give the titled compound (3.73 g) as a colorless crystal.

reactant | 1-(2-pyrimidinyl)piperazine | 3.28 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | succinic anhydride | 2.2 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-Oxo-4-(4-pyrimidin-2-ylpiperazin-1-yl)butanoic Acid | 3.73 g | O=C(CCC(=O)O)N1CCN(CC1)C1=NC=CC=N1 | C12H16N4O3
